US08022222B2
Step A: Preparation of 2-chloro-3-isothiocyanato-6-methylpyridine:
A solution of thiophosgene (3.871 g, 33.66 mmol) in dichloromethane (10 mL) was added to a mixture of 2-chloro-6-methylpyridin-3-amine (4.00 g, 28.05 mmol) and sodium carbonate (5.947 g, 56.11 mmol) in dichloromethane (200 mL). The reaction was stirred overnight at ambient temperature, then washed with water, brine, dried, and concentrated to afford the desired product (5.2 g, 100.4% yield) as a tan powder.

reactant | thiophosgene | 33.66 mmol, 3.871 g | C(=S)(Cl)Cl | CCl2S
reactant | 2-chloro-6-methylpyridin-3-amine | 28.05 mmol, 4.00 g | ClC1=NC(=CC=C1N)C | C6H7ClN2
reactant | sodium carbonate | 56.11 mmol, 5.947 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-chloro-3-isothiocyanato-6-methylpyridine | 5.2 g, 100.4% yield | ClC1=NC(=CC=C1N=C=S)C | C7H5ClN2S
